US04711895
Production of 4-trimethylsilyloxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-octyl-2-cyclopentenone
Under a nitrogen atmosphere at -78° C., a solution of 200 mg (0.71 mmole) of (4R)-4-trimethylsilyloxy-4-octyl-2-cyclopentenone in 2 ml of tetrahydrofuran was added to a solution of LDA prepared from 93 mg (0.92 mmole) of isopropylamide and 590 microliters of n-butyllithium (as a 10 W/V % hexane solution) in 3 ml of tetrahydrofuran, and the mixture was stirred for 1 hour. Then, a solution of 146 mg (0.92 mmole) of methyl 6-formylhexanoate in 2 ml of tetrahydrofuran was added, and the mixture was stirred at -78° C. for 2 hours. The reaction was terminated by adding an aqueous solution of ammonium chloride. The reaction mixture was extracted with ether, and the extract was dried over anhydrous magnesium sulfate, filtered and concentrated.

reactant | (4R)-4-trimethylsilyloxy-4-octyl-2-cyclopentenone | 0.71 mmole, 200 mg | C[Si](O[C@]1(C=CC(C1)=O)CCCCCCCC)(C)C | C16H30O2Si
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | isopropylamide | 0.92 mmole, 93 mg | C(C)(C)[NH-]
reactant | n-butyllithium | 590 microliters | C(CCC)[Li]
reactant | methyl 6-formylhexanoate | 0.92 mmole, 146 mg | C(=O)CCCCCC(=O)OC | C8H14O3
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-trimethylsilyloxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-octyl-2-cyclopentenone | C[Si](OC1(C=CC(C1C(CCCCCC(=O)OC)O)=O)CCCCCCCC)(C)C | C24H44O5Si
